US06583126B2
Step 8 methyl 4-[(E)-1-{4-[[di(tert-butoxy)phosphoryl](difluoro)methyl]benzyl}-1-(4-fluorobenzoyl)-4-phenyl-3 butenyl]benzoate
To a solution of methyl 4-[(E)-1-(4-fluorobenzoyl)-4-phenyl-3-butenyl]benzoate (racemate) (0.430 g, 1.10 mmol), 18 crown 6 (0.236 g) and a catalytic amount of tetrabutylammonium iodide in THF (5 ml) degassed at −78° C. was added potassium tert-butoxide 1 M in THF (1.1 ml, 1.10 mmol). After a period of 0.5 h, a solution of di(tert-butyl) [4-(bromomethyl)phenyl](difluoro)methylphosphonate (0.46 g, 1.11 mmol) in THF (5 ml) was added to the reaction mixture, and the reaction mixture was then stirred at room temperature for 1 hour. Saturated ammonium acetate solution (20 ml) was added and the mixture was extracted with ethyl acetate (20 ml). The organic phase was washed with brine and dried over sodium sulfate, filtered and evaporated to dryness. The residue was purified by flash chromatography using hexane/ethyl acetate 15% containing 1% triethylamine giving 0.39 g of the title compound.

reactant | methyl 4-[(E)-1-(4-fluorobenzoyl)-4-phenyl-3-butenyl]benzoate | 1.10 mmol, 0.430 g | FC1=CC=C(C(=O)C(C\C=C\C2=CC=CC=C2)C2=CC=C(C(=O)OC)C=C2)C=C1 | C25H21FO3
reactant | potassium tert-butoxide | 1 M | CC(C)([O-])C.[K+]
reactant | di(tert-butyl) [4-(bromomethyl)phenyl](difluoro)methylphosphonate | 1.11 mmol, 0.46 g | BrCC1=CC=C(C=C1)C(F)(F)P(OC(C)(C)C)(OC(C)(C)C)=O | C16H24BrF2O3P
reactant | ammonium acetate | 20 ml | C(C)(=O)[O-].[NH4+]
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 1.10 mmol, 1.1 ml | C1CCOC1 | C4H8O
product | methyl 4-[(E)-1-{4-[[di(tert-butoxy)phosphoryl](difluoro)methyl]benzyl}-1-(4-fluorobenzoyl)-4-phenyl-3 butenyl]benzoate | C(C)(C)(C)OP(=O)(OC(C)(C)C)C(C1=CC=C(CC(C\C=C\C2=CC=CC=C2)(C(C2=CC=C(C=C2)F)=O)C2=CC=C(C(=O)OC)C=C2)C=C1)(F)F | C41H44F3O6P
